US06423689B1
[S-(R*,R*)]-3-(4-Benzyloxy-phenyl)-2-[4-methyl-2-(4-nitro-benzenesulfonylamino)-pentanoylamino]-propionic acid tert-butyl ester
A solution of the product from Example AI ([S-(R*,R*)]-2-(2-amino-4-methyl-pentanoylamino)-3-(4-benzyloxy-phenyl)-propionic acid tert-butyl ester) (308 mg, 0.70 mmol), 4-nitrobenzenesulfonyl chloride (190 mg, 0.77 mmol), N,N-diisopropylethyl-amine (181 mg, 1.4 mmol) and DMAP (20 mg), in benzene (5 mL) was heated under reflux for 3 hours, then concentrated in vacuo and the residue dissolved in ethyl acetate, and washed with saturated NaHCO3 solution, water, and brine, dried over anhydrous sodium sulfate, and concentrated in vacuo. The tan solid thus obtained was triurated in warm tert-butylmethyl ether, and filtered to give 419 mg (95%) of the title compound as a white solid, mp=121-123° C.

reactant | 2-(2-amino-4-methyl-pentanoylamino)-3-(4-benzyloxy-phenyl)-propionic acid tert-butyl ester | C(C)(C)(C)OC(C(CC1=CC=C(C=C1)OCC1=CC=CC=C1)NC(C(CC(C)C)N)=O)=O | C26H36N2O4
reactant | 4-nitrobenzenesulfonyl chloride | 0.77 mmol, 190 mg | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | N,N-diisopropylethyl-amine | 1.4 mmol, 181 mg | C(C)(C)N(C(C)C)CC | C8H19N
catalyst | DMAP | 20 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | benzene | 5 mL | C1=CC=CC=C1 | C6H6
solvent | tert-butylmethyl ether | C(C)(C)(C)OC | C5H12O
product | 3-(4-Benzyloxy-phenyl)-2-[4-methyl-2-(4-nitro-benzenesulfonylamino)-pentanoylamino]-propionic acid tert-butyl ester | 419 mg, 95% | C(C)(C)(C)OC(C(CC1=CC=C(C=C1)OCC1=CC=CC=C1)NC(C(CC(C)C)NS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])=O)=O | C32H39N3O8S
